US08835420B2
(S)-4-Amino-2-hydroxy-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile (66 mg, 0.145 mmol) in THF (2 mL) was combined with sodium hydroxide (0.289 mL, 0.289 mmol) to give a yellow solution, which was heated to 50° C. and stirred for 3 hours. The product was purified by LC/MS using a 5-30% CH3CN gradient in H2O with 0.035% formic acid. The pure fractions were combined and lyophilized to give a formic acid salt of the title compound as a white solid (7 mg, 12%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32-1.46 (m, 3 H), 2.70-2.85 (m, 2H), 3.00-3.13 (m, 2 H), 3.81 (s, 8 H), 5.67-5.86 (m, 1 H), 6.43-6.53 (m, 1 H), 7.05-7.23 (m, 1 H), 7.27-7.45 (m, 2 H), 7.52-7.64 (m, 1 H), 7.85-7.94 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H22N8O2, 395.4; found 395.5.

reactant | (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | 0.145 mmol, 66 mg | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)S(=O)(=O)C | C20H24N8O3S
reactant | sodium hydroxide | 0.289 mmol, 0.289 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-4-Amino-2-hydroxy-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 7 mg, 12% | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)O | C19H22N8O2
